US07737135B2
a) 4-bromo-N-ethyl-2-fluoro-benzamide
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-fluorobenzoic acid, ethylamine hydrochloride and triethylamine.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | ethylamine hydrochloride | Cl.C(C)N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-bromo-N-ethyl-2-fluoro-benzamide | BrC1=CC(=C(C(=O)NCC)C=C1)F | C9H9BrFNO
